US07244730B2
(Step 10) tert-Butyl 4-(azidomethyl)-5-cyano-2-ethoxybenzoate
After dissolving tert-butyl 4-(bromomethyl)-5-cyano-2-ethoxybenzoate (2.20 g, 70% purity) in dimethylformamide (25 ml), sodium azide (2.1 g) was added and the mixture was stirred at 50° C. for 30 minutes. It was then diluted with ethyl acetate, washed with water, dried over anhydrous magnesium sulfate, filtered and concentrated to yield the title compound (1.913 g).

reactant | tert-butyl 4-(bromomethyl)-5-cyano-2-ethoxybenzoate | 2.20 g | BrCC1=CC(=C(C(=O)OC(C)(C)C)C=C1C#N)OCC | C15H18BrNO3
reactant | sodium azide | 2.1 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-(azidomethyl)-5-cyano-2-ethoxybenzoate | 1.913 g | N(=[N+]=[N-])CC1=CC(=C(C(=O)OC(C)(C)C)C=C1C#N)OCC | C15H18N4O3
